US04925849
A solution of methyl isocyanate (0.19 g) in methylene chloride (2 ml) was added dropwise to a mixture of 2-phenylpyrazolo[1,5-a]pyridine-3-carbaldehyde oxime (0.52 g) in chloroform (4 ml) with stirring and ice-cooling. The mixture was stirred at room temperature for 2 hours and allowed to stand at room temperature overnight. The solvent was evaporated in vacuo and the residue was chromatographed on silica gel (20 g) with methylene chloride as an eluent The fractions containing the object compound were combined (20 ml) and evaporated in vacuo. The residue was recrystallized from ethyl acetate to give 2-phenylpyrazolo[1,5-a]pyridine-3-carbonitrile (0.21 g).

reactant | methyl isocyanate | 0.19 g | CN=C=O | C2H3NO
reactant | 2-phenylpyrazolo[1,5-a]pyridine-3-carbaldehyde oxime | 0.52 g | C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1C=NO | C14H11N3O
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-phenylpyrazolo[1,5-a]pyridine-3-carbonitrile | 0.21 g | C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1C#N | C14H9N3
